* current noise model
.SUBCKT noisecurrentsource Inn Inp
.param In 1E-9
.param In1f {In}
.param fc 1e3
.param trel 0
.param kB 1.380649E-23
*.param T 293.15
.param T {273.15+{temp}-{trel}}
R1 VRn1 0 {1/(4*kB*T)}

B3 Inp Inn I=V(VRn1)*In
B4 Inp Inn I=V(VRn1)*In1f Laplace=sqrt(fc*(2*pi)/s)

.measure NOISE t1 AVG {temp}
*.measure NOISE t2 PARAM T
*.backanno
.ENDS


